US07601714B2
To a solution of the above 2-chloro-2-methoxy-benzamide (1.0 g, 5.4 mmol) in anhydrous THF (10 mL) was added dropwise 1M BH3-THF complex (12.8 mL, 12.8 mmol) at 0° C. After 10 min. of stirring at 0° C., the reaction mixture was heated at 65° C. for 4 h. MeOH (approximately 10 mL) was then added to the cooled reaction mixture at 0° C. The reaction was warmed to room temperature and stirred for 10 min. The reaction solution was concentrated in vacuo to yield an oily product. The product was dissolved in 50% THF/MeOH (10 mL) and 4M HCl (10 mL) was added slowly to the solution. After 10 min. the mixture was partitioned between water (10 mL) and CH2Cl2 (20 mL). The aqueous layer was extracted with CH2Cl2 (10 mL) and the organic layers were discarded. The aqueous layer was basified to pH 9 with 5M NaOH solution. The solution was extracted with CH2Cl2 (3×20 mL). The combined organic layers were washed with brine, dried over MgSO4, and concentrated in vacuo to afford 0.36 g (39%) of 5-chloro-2-methoxy-benzylamine as a white solid.

reactant | 2-chloro-2-methoxy-benzamide | 5.4 mmol, 1.0 g | ClC1(C(C(=O)N)C=CC=C1)OC | C8H10ClNO2
reactant | MeOH | approximately 10 mL | CO | CH4O
reactant | HCl | 4M, 10 mL | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF MeOH | 10 mL | C1CCOC1.CO
product | 5-chloro-2-methoxy-benzylamine | 0.36 g, 39% | ClC=1C=CC(=C(CN)C1)OC | C8H10ClNO
